Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache, fever, chills
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ year old male with no past medical history,
who presented to OSH with ongoing fevers and chills, night 
sweats
and recurrent headaches for the past ___ days. 

He says that starting about 3 days ago he developed a headache
___ night that was throbbing in nature. It came on suddenly
and lasted until the morning the next day. He tried some
Ibuprofen 200mg at home for this pain which did help. He then 
had
a fever starting ___ morning and he presented to his student
health clinic on ___ morning and received Tylenol. At his
student health clinic he says he had a fever of 101.5. Later 
that
night he awoke covered in sweat and having chills, also his
headache returned that night. He says that his headache has
always been posteriorly located and without and visual auras. 

Of note, last night he did feel that his right arm and leg had
some intermittent transient numbness. With myalgia in his right
leg. He also had a brief period where both of his legs felt weak
and they gave out on him on the way to the bathroom. 

He was told to go to ___ from his student health
clinic  

 
In the ED, initial vital signs were: Tmax 99.0  P 60-70s BP
105/58-112/71 R 18 O2 100 sat RA.  

Na 135     
K5.6    
Cr.1.0  
Plt 72
Hgb 12.1
WBC 5.5
LDH 599
bili 1.6
(indirect ___
 
 - Studies performed include MRI brain, CXR  
 - Patient was given Tylenol ___, IV NS 1000ml
 - Vitals on transfer:   

Upon arrival to the floor, the patient confirms the story 
related
above. He says that he feels well right now other than a ___
headache that is consistent with the HA he has had in the recent
days. He denies any other symptoms currently, and feel overall
improved. He denies any recent travel, sick contacts 
 
 Review of Systems:  
 (+) per HPI  
 (+) fever, chills, night sweats, headache, 

No vision changes, rhinorrhea, congestion, sore throat, cough,
shortness of breath, chest pain, abdominal pain, nausea,
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia,
dysuria, hematuria.  

 
Past Medical History:
- NO significant past medical history
- No asthma 
 
Social History:
___
Family History:
- No family history of leukemia, cancers
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals-  Temp 98.3  HR 61  BP 112/71 RR 16 100% RA  
GENERAL: Well appearing young male in no pain or distress  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. No 
conjunctival
pallor or injection, sclera anicteric and without injection.
Moist mucous membranes, good dentition. Oropharynx is clear.   
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No
JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
Resonant to percussion.   
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. Tympanic to percussion. No
organomegaly.  No splenomegaly 
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. 

DISCHARGE PHYSICAL EXAM
========================
Vitals- Reviewed in POE
GENERAL: Well appearing young male in no pain or distress  
HEENT: Normocephalic, atraumatic. Oropharynx is clear.   
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No
JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:35PM BLOOD WBC-5.5 RBC-4.19* Hgb-12.1* Hct-36.6* 
MCV-87 MCH-28.9 MCHC-33.1 RDW-12.6 RDWSD-40.1 Plt Ct-72*
___ 11:35PM BLOOD Neuts-82.3* Lymphs-7.9* Monos-8.6 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-4.49 AbsLymp-0.43* 
AbsMono-0.47 AbsEos-0.02* AbsBaso-0.01
___ 11:35PM BLOOD Plt Ct-72*
___ 11:35PM BLOOD Parst S-NEGATIVE
___ 11:35PM BLOOD Glucose-64* UreaN-20 Creat-1.0 Na-135 
K-5.6* Cl-97 HCO3-17* AnGap-21*
___ 11:35PM BLOOD ALT-18 AST-47* LD(LDH)-599* AlkPhos-63 
TotBili-1.6* DirBili-0.2 IndBili-1.4
___ 11:35PM BLOOD Lipase-26
___ 05:25PM BLOOD Calcium-8.4 Phos-2.7 Mg-2.1
___ 05:25PM BLOOD Hapto-90
___ 05:25PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 11:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:40AM BLOOD K-4.6
___ 05:25PM BLOOD HCV Ab-NEG
___ 05:00PM URINE Color-Straw Appear-Clear Sp ___
___ 05:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-NEG

IMAGING
=======
MR HEAD WITH AND WITHOUT CONTRAST: 1. No acute intracranial 
abnormalities identified.  No evidence of dural venus 
sinus thrombosis. 
2. Mild prominence/heterogeneous enhancement of the lingual 
tonsils may 
correlate may be secondary to infection/inflammation. Consider 
direct 
visualization for further evaluation. 

CXR: No acute cardiopulmonary process.

DISCHARGE/INTERVAL LABS
=======================
___ 05:35AM BLOOD WBC-4.2 RBC-4.82 Hgb-13.6* Hct-41.4 
MCV-86 MCH-28.2 MCHC-32.9 RDW-12.6 RDWSD-39.5 Plt ___
___ 05:35AM BLOOD Glucose-90 UreaN-16 Creat-0.8 Na-139 
K-4.3 Cl-102 HCO3-27 AnGap-10
___ 05:25PM BLOOD ALT-14 AST-24 LD(LDH)-159 AlkPhos-70 
TotBili-1.1
___ 05:35AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.___ year old male with no past medical history who presented with 
sudden onset headaches, fevers, chills, intermittent localized 
myalgias x 3 days. He initially presented to an OSH hospital and 
underwent a LP that was reassuring, prior to transfer. At ___, 
MRI brain did not show acute intracranial abnormality or dural 
venous sinus thrombosis. Repeat CBC, electrolytes, and LFTs were 
reassuring on admission (parasite smear was normal). His 
headache had resolved on arrival to the Medicine floor; he 
received a dose of Ibuprofen overnight. On discharge, he 
reported resolution of his symptoms which are at this time, most 
likely consistent with a viral URI (mild 
prominence/heterogeneous enhancement of the lingual tonsils seen 
on MRI brain likely consistent with inflammation vs infection).

TRANSITIONAL ISSUES
===================
[ ] Given constellation of symptoms and initial concern for 
thrombocytopenia to ___ (had resolved on re-check when admitted 
to the Medicine floor), Anaplasma, EBV, Lyme, blood and urine 
cultures were ordered, which were pending at time of discharge. 
Please follow-up on these diagnostics
[ ] MRI brain showed mild prominence/heterogeneous enhancement 
of the lingual tonsils seen on MRI brain likely consistent with 
inflammation vs infection. Recommend clinical correlation if 
patient presents with worsening symptoms 
[ ] Would advise repeating CBC in one week given initial 
presentation with platelets to 72. Platelets on discharge were 
140
[ ] Would advise Flu vaccine as he is Flu negative at this time
[ ] Would advise Fe studies for his anemia, if not previously 
worked up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
UPPER RESPIRATORY INFECTION, LIKELY VIRAL

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted for headache, chills, and fevers which started 
earlier this week. Before you came to ___, you underwent a 
lumbar puncture to evaluate for whether you had meningitis. We 
are reassured that this is not the case. You underwent a brain 
MRI which did not show any findings that are concerning. Your 
labs are also unremarkable at this time.

Your symptoms are likely related to a viral upper respiratory 
infection. You were treated with Ibuprofen which helped with the 
headache. On discharge, you can use Tylenol or Ibuprofen as 
needed for your headache. It is important that you keep up your 
appetite and remain well rested. Please be sure to get a flu 
vaccine this year.

It is important that you attend your follow-up appointments 
listed below!

It was a pleasure taking care of you!

We wish you the best!

Your ___ Team
 
Followup Instructions:
___